US04788186
Preparation of 6-hydroxy-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine.
6-Chloro-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine (0.5 mole) and fused anhydrous sodium acetate in acetic acid are heated to the reflux temperature for about 1 hour. The solvent is evaporated under reduced pressure, the residue is then taken up with water, collected by filtration, and crystallized from ethanol/chloroform. The product of the title is thus obtained in a 85% yield. M.p. 307°-309° C.

reactant | 6-Chloro-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine | 0.5 mole | ClC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=C(C=C2)OC | C16H11ClN4O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 6-hydroxy-3-(4-methoxyphenyl)-1,2,4-triazolo[3,4-a]phthalazine | 85% yield | OC1=NN2C(C3=CC=CC=C13)=NN=C2C2=CC=C(C=C2)OC | C16H12N4O2
